US04366160
A solution of 16.8 g of 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]imidazolidine in 150 ml of dry methanol is treated with 5.83 g of sodium carbonate and 7.81 g of methyl iodide. The mixture is heated to reflux while stirring for 4 hours and then evaporated in vacuo. The residue is partitioned between water and methylene chloride. The organic phase is dried and evaporated. The residual oil is chromatographed on silica gel while eluting with a mixture of chloroform and ethanol (9:1). There is obtained an oil which is dissolved in acetone and treated with hydrogen chloride in dioxane and then with ether until turbidity occurs. The 1-(benzyloxy)-2-(2,6-dichloro-N-methylanilino)-2-imidazoline hydrochloride obtained melts at 185°-186°.

reactant | 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]imidazolidine | 16.8 g | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | sodium carbonate | 5.83 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 7.81 g | CI | CH3I
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 1-(benzyloxy)-2-(2,6-dichloro-N-methylanilino)-2-imidazoline hydrochloride | Cl.C(C1=CC=CC=C1)ON1C(=NCC1)N(C1=C(C=CC=C1Cl)Cl)C | InChI=1S/C17H17Cl2N3O.ClH/c1-21(16-14(18)8-5-9-15(16)19)17-20-10-11-22(17)23-12-13-6-3-2-4-7-13;/h2-9H,10-12H2,1H3;1H
